ICE2976 passive two-wire adapter - nominal device models, not hardware verification
VU u 0 18
RP1 u x1 4935.0
RP2 u x2 4935.0
RSW1 x1 0 1000000000000.0
RSW2 x2 0 1000000000000.0
RS1 x1 k1 1050.0
RS2 x2 k2 1050.0
RSHORT k1 k2 1000000000000.0
D1 k1 vp DS
D2 k2 vp DS
DR vp nr RED
DW vp nw WHITE
RR nr k1 49350.0
RW nw k2 49350.0
D3 nr vp DS
D4 nw vp DS
.model DS D(Is=2.52n N=1.752 Rs=0.568 Cjo=4p Tt=4n BV=75)
.model RED D(Is=1e-20 N=2 Rs=10)
.model WHITE D(Is=1e-25 N=2 Rs=10)
.control
set wr_singlescale
set wr_vecnames
op
wrdata case_56.dat v(x1) v(x2) v(k1) v(k2) v(vp) v(nr) v(nw) @dr[id] @dw[id]
quit
.endc
.end
